US05506235
A. N-(4-Butylphenyl)-8-methoxyquinolin-4-amine Hydrochloride Hydrate
In a manner similar to that described in Example 35, Part A, 4-chloro-8-methoxyquinoline and 4-butylaniline were tranformed into the title compound: m.p. 132°-134° C.

reactant | 4-chloro-8-methoxyquinoline | ClC1=CC=NC2=C(C=CC=C12)OC | C10H8ClNO
reactant | 4-butylaniline | C(CCC)C1=CC=C(N)C=C1 | C10H15N
product | N-(4-Butylphenyl)-8-methoxyquinolin-4-amine Hydrochloride Hydrate | O.Cl.C(CCC)C1=CC=C(C=C1)NC1=CC=NC2=C(C=CC=C12)OC | InChI=1S/C20H22N2O.ClH.H2O/c1-3-4-6-15-9-11-16(12-10-15)22-18-13-14-21-20-17(18)7-5-8-19(20)23-2;;/h5,7-14H,3-4,6H2,1-2H3,(H,21,22);1H;1H2
